US07511055B2
Step 2: 5-Iodo-2-methyl-7H-[1,7]naphthyridin-8-one
2-Methyl-7H-[1,7]naphthyridin-8-one (10.0 g, 62.4 mmol) was suspended in 300 ml acetonitrile and N-iodosuccinimide (16.9 g, 74.9 mmol) was added. The suspension was stirred for 3 hours at reflux. The reaction mixture was cooled to room temperature and filtered. The solid was washed with acetonitrile and dried for 30 minutes at 50° C. and <20 mbar, to get the desired compound as a brown solid (14.3 g, 80%), MS: m/e=287.0 (M+H+).

reactant | 2-Methyl-7H-[1,7]naphthyridin-8-one | 62.4 mmol, 10.0 g | CC1=NC=2C(NC=CC2C=C1)=O | C9H8N2O
reactant | N-iodosuccinimide | 74.9 mmol, 16.9 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5-Iodo-2-methyl-7H-[1,7]naphthyridin-8-one | 14.3 g, 80% | IC=1C=2C=CC(=NC2C(NC1)=O)C | C9H7IN2O
